US08470859B2
5-chloro-1-(2,4-difluorobenzyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrobromide
According to the method of Example 172, 2-amino-5-chloronicotinamide was reacted with 1-(bromomethyl)-2,4-difluorobenzene to give the title compound.

reactant | 2-amino-5-chloronicotinamide | NC1=C(C(=O)N)C=C(C=N1)Cl | C6H6ClN3O
reactant | 1-(bromomethyl)-2,4-difluorobenzene | BrCC1=C(C=C(C=C1)F)F | C7H5BrF2
product | 5-chloro-1-(2,4-difluorobenzyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrobromide | Br.ClC=1C=C(C(N(C1)CC1=C(C=C(C=C1)F)F)=N)C(=O)N | InChI=1S/C13H10ClF2N3O.BrH/c14-8-3-10(13(18)20)12(17)19(6-8)5-7-1-2-9(15)4-11(7)16;/h1-4,6,17H,5H2,(H2,18,20);1H
